US06030926
Synthesis of 3-(3-chlorophenyl)-4-benzoylpyrazole (Compound No. 2)
1-(3-Chlorophenyl)-2-(N,N-dimethylaminomethylene)-3-phenyl-1,3-propanedione (11.25 g) synthesized in accordance with Example 1 was dissolved in ethanol (150 ml) and added with hydrazine hydrate (1.98 g). After heating at reflux temperature for 3 hours, the solvent was distilled off, and then the resulting residue was added with diisopropyl ether and stirred. The resulting solid was then filtered off, recrystallized from acetonitrile to give the compound of interest (3.0 g). M.P.: 161.3-164.1° C.

reactant | 1-(3-Chlorophenyl)-2-(N,N-dimethylaminomethylene)-3-phenyl-1,3-propanedione | 11.25 g | ClC=1C=C(C=CC1)C(C(C(=O)C1=CC=CC=C1)=CN(C)C)=O | C18H16ClNO2
reactant | hydrazine hydrate | 1.98 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(3-chlorophenyl)-4-benzoylpyrazole | ClC=1C=C(C=CC1)C1=NNC=C1C(C1=CC=CC=C1)=O | C16H11ClN2O
